US08703793B2
4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-quinoline-3-carbonitrile
13.3 g 2-Cyano-3-cyclopentyl-acrylic acid methyl ester and 5.8 ml trifluoroacetic acid are dissolved in 70 ml acetonitrile and heated for 7 days to reflux. During the first 5 days 3-amino-5,5-dimethyl-cyclohex-2-enone is added in daily portions (12 g in total). Afterwards the reaction mixture is cooled to 0° C., the precipitate is isolated by filtration, washed 2 times with cold acetonitrile and dried in vacuo. The product is obtained as a mixture of diastereomers.

reactant | 2-Cyano-3-cyclopentyl-acrylic acid methyl ester | 13.3 g | COC(C(=CC1CCCC1)C#N)=O | C10H13NO2
reactant | trifluoroacetic acid | 5.8 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-amino-5,5-dimethyl-cyclohex-2-enone | NC1=CC(CC(C1)(C)C)=O | C8H13NO
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4-Cyclopentyl-7,7-dimethyl-2,5-dioxo-1,2,3,4,5,6,7,8-octahydro-quinoline-3-carbonitrile | C1(CCCC1)C1C(C(NC=2CC(CC(C12)=O)(C)C)=O)C#N | C17H22N2O2
